US07589232B2
Step b) Formation of 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(2,2-dimethylpropanoyl)amino]-2-hydroxybenzoic acid
The titled compound was prepared following the procedure C using N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-2,2-dimethylpropionamide and NaOH 5M aq. in the presence of EtOH as a white powder (70%). 1H NMR (CDCl3, 300 MHz) δ 10.62 (s, 1H), 7.55 (d, J=2.6 Hz, 1H), 7.43 (m, 4H), 7.15 (m, 4H), 7.08 (dd, J=8.7, 2.6 Hz, 1H), 6.93 (d, J=8.7 Hz, 1H), 4.83 (s, 2H), 2.62 (t, J=7.8 Hz, 2H), 1.61 (m, 2H), 1.36 (m, 2H, 1.08 (s, 9H), 0.93 (t, J=7.4 Hz, 3H). M− (ESI): 482.4; M+ (ESI): 484.3. HPLC, Rt: 5.39 min (Purity: 100%).

reactant | N-{4-[(4-butylphenyl)ethynyl]benzyl}-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)-2,2-dimethylpropionamide | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C(C(C)(C)C)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C34H37NO4
reactant | NaOH | 5M | [OH-].[Na+]
solvent | EtOH | CCO | C2H6O
product | 5-[{4-[(4-butylphenyl)ethynyl]benzyl}(2,2-dimethylpropanoyl)amino]-2-hydroxybenzoic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C=2C=CC(=C(C(=O)O)C2)O)C(C(C)(C)C)=O)C=C1 | C31H33NO4
